.title gbw TLV9042
.include "../../ngspice_v15_2608001/lib/TLV9042.lib"
V1 vcc 0 DC 1.8
Vb mid 0 DC 0.9
Vin inp mid DC 0 AC 1
Xop inp inn vcc 0 out TLV9042
Rf out inn 9k
Rg inn mid 1k
.control
  ac dec 100 10 5e6
  meas ac gdc FIND vdb(out) AT=100
  let g3 = gdc - 3
  meas ac f3 WHEN vdb(out)=g3 FALL=1
  print gdc f3
.endc
.end