.title LPV7215 offset
.include "../../ngspice_v15_2608001/lib/LPV7215.lib"
V1 vcc 0 DC 1.8
Vref refn 0 DC 0.9
Vp inp 0 DC 0.9
X1 inp refn vcc 0 outp LPV7215
.control
  dc Vp 0.895 0.905 0.00002
  meas dc vflip WHEN v(outp)=0.9 RISE=1
  print vflip
.endc
.end